* source 14-11-23
C_C1         N00207 N00211  200uF  TC=0,0 
R_R1         N00231 N00207  8 TC=0,0 
R_R2         N00211 N00215  2 TC=0,0 
L_L1         N00215 0  10mH  
V_V2         N00231 0  
+SIN 0 2.8284 159.15 0 0 0
