* source 21-NOV-23
V_V1         N00165 0  
+SIN 0 2.8284 159.15 0 0 0
C_C1         N00172 N00176  10n  TC=0,0 
R_R1         N00165 N00172  80k TC=0,0 
R_R2         N00176 N00180  330 TC=0,0 
L_L1         N00180 0  1.5H  
