* source PSPICE
R_R6         0 N00717  100 TC=0,0 
R_R2         N00705 N00709  560 TC=0,0 
R_R4         N00713 N00717  330 TC=0,0 
R_R3         N00709 N00713  470 TC=0,0 
R_R1         N03712 N00705  690 TC=0,0 
R_R5         0 N00717  220 TC=0,0 
V_V1         N03712 0 9Vdc
