* source E
R_R1         N00317 N00257  1k TC=0,0 
R_R3         0 N00317  1k TC=0,0 
R_R2         N00249 N00257  1k TC=0,0 
V_V1         N00249 0 9Vdc
