* source PRACTICA2
C_C1         N00254 N00278  1u  TC=0,0 
C_C2         0 N00278  10n  TC=0,0 
R_R1         N00247 N00254  1k TC=0,0 
R_R2         0 N00289  1k TC=0,0 
R_R3         N00254 N00278  1k TC=0,0 
R_R4         0 N00278  1k TC=0,0 
R_R5         N00285 N00254  330 TC=0,0 
L_L1         N00285 N00289  1.5H  
V_V1         N00247 0 9Vdc
